US07714168B2
To 40 ml of acetonitrile were added 7.3 g of 3-fluoro-4-hydroxy-5-methoxybenzaldehyde, 8.8 g of benzyl bromide, 16.8 g of cesium carbonate and 10 ml of DMF, and the mixture obtained was heated under reflux for 10 hours. The reaction mixture was concentrated under reduced pressure. Hydrochloric acid was added to the residue and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 7.5 g of 4-benzyloxy-3-fluoro-5-methoxybenzaldehyde represented by the formula:

reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
reactant | 3-fluoro-4-hydroxy-5-methoxybenzaldehyde | 7.3 g | FC=1C=C(C=O)C=C(C1O)OC | C8H7FO3
reactant | benzyl bromide | 8.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 16.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxy-3-fluoro-5-methoxybenzaldehyde | 7.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1OC)F | C15H13FO3
